US08835626B2
1st step: 9-benzenesulfonyl-1-bromo-9H-carbazole
19.6 g (80 mmol) of 1-bromocarbazole are initially introduced in 1000 ml of THF, and 8.9 g (223.3 mmol) of NaH (60% in oil) are added at 0° C. 24 g (80 mmol) of 2-iodobenzenesulfonyl chloride are subsequently added to the mixture, which is then stirred at 40° C. for 12 h. The organic phase is dried over MgSO4, and the solvent is removed in vacuo. The residue is recrystallised from acetone and finally sublimed in a high vacuum. Yield: 29 g (574 mmol), 72% of theory, purity according to HPLC 99.9%.

reactant | 1-bromocarbazole | 80 mmol, 19.6 g | BrC1=CC=CC=2C3=CC=CC=C3NC12 | C12H8BrN
reactant | NaH | 223.3 mmol, 8.9 g | [H-].[Na+]
reactant | 2-iodobenzenesulfonyl chloride | 80 mmol, 24 g | IC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClIO2S
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
product | 9-benzenesulfonyl-1-bromo-9H-carbazole | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C=CC=C(C12)Br | C18H12BrNO2S
